US04241058
7 g of platinum dioxide and 7 g of active carbon are suspended in 500 ml of glacial acetic acid and pre-hydrogenated. Subsequently, a solution of 36.8 g of 1-[3-(p-tert.butyl-phenyl)-2-methyl-propyl]-piperidine in 1000 ml of glacial acetic acid and 67 ml of perchloric acid is added and the mixture is hydrogenated at 25° C. The catalyst is removed by filtration and the filtrate is treated with 110 g of potassium acetate dissolved in 100 ml of water. The precipitated potassium perchlorate is filtered, and the filtrate is evaporated on a rotary evaporator. The crystalline residue is made alkaline with 2-N sodium hydroxide, the free base is extracted with 500 ml of ether, washed neutral with water, dried over sodium sulphate and evaporated. By distillation there is obtained pure 1-[3-(4-tert.butyl-cyclohexyl)-2-methyl-propyl]-piperidine of boiling point 102° C./0.02 Torr.

reactant | 1-[3-(p-tert.butyl-phenyl)-2-methyl-propyl]-piperidine | 36.8 g | C(C)(C)(C)C1=CC=C(C=C1)CC(CN1CCCCC1)C | C19H31N
solvent | acetic acid | 500 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 1000 ml | C(C)(=O)O | C2H4O2
solvent | perchloric acid | 67 ml | Cl(=O)(=O)(=O)O | ClHO4
catalyst | platinum dioxide | 7 g | [Pt](=O)=O
product | 1-[3-(4-tert.butyl-cyclohexyl)-2-methyl-propyl]-piperidine | C(C)(C)(C)C1CCC(CC1)CC(CN1CCCCC1)C | C19H37N
